reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:9].[C:3]1([H:8])([H:12])[C:4]([H:13])([H:14])[C:5]1([C:6]([H:16])([H:17])[H:18])[H:15]>>[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[C@:5]1([C:6]([H:16])([H:17])[H:18])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],91.07305731026099
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:5]([H:14])([H:15])[O+:6]=[C-:4][C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],69.8577630520322
[O:1]=[C:2]([C:3]([N:4]([C:5](=[O:6])[H:11])[H:10])([H:8])[H:9])[H:7]>>[O:1]1[C@:2]2([H:7])[C:3]([H:8])([H:9])[N:4]([H:10])[C@@:5]1([H:11])[O:6]2,62.572731478337296
[C:1]([C:2]([C:3]([C:4](=[C+:5][H:15])[O-:6])([H:12])[H:13])([C:7]([H:14])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],60.09569221216158
[C:1]([O:2][C@@:3]1([O:4][H:15])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],28.484559560582007
[C-:3]#[O+:4].[C:1]([C:2](=[C:5]=[N:6][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],32.00576282749171
[C:1]([C@@:2]1([H:10])[O:3][C:5](=[C:6]([H:11])[H:14])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],85.57656939976171
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:10].[C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15],91.3537289375909
[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7]>>[O:1]([C+:2]=[C:3]([O-:4])[C:5](=[O:6])[H:8])[H:7],79.86093227327692
[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([C:5][H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6]([H:14])[H:16],82.5429867864801
[C:1](=[C:2]=[N:3][H:5])([H:4])[H:6]>>[C:1]([C:2]#[N:3])([H:4])([H:5])[H:6],68.93502823768739
[C:1]1([H:6])([H:7])[C:4]([C:3](=[C:2]([H:8])[H:9])[H:10])([H:11])[C:5]1([H:12])[H:13]>>[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]1([H:12])[H:13],65.46908525471
[O:1]1[C@@:2]([C:6]#[C:7][H:13])([H:9])[C:3]([H:10])([H:11])[C:4]1=[C:5]([H:8])[H:12]>>[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8],83.74224321900651
[C:1]1([H:7])([H:8])[C@@:2]([C:6](=[C:5])[H:12])([H:9])[O:3][C:4]1([H:10])[H:11]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[O:3][C@:4]1([H:10])[C:5]([H:11])=[C:6]2[H:12],16.666284837612103
[C-:6]#[O+:7].[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:19])([H:13])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],107.87561771371026
[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])=[O:6])([H:11])[H:12])([H:7])([H:8])[H:9].[H:10][H:16]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],71.4778625201957
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([O:3][H:12])[C:4]([O:5][H:9])=[C:6]=[C:7]([H:11])[H:13])([H:8])[H:10],112.15958005846399
[N:1](=[C:2](/[O:3][C:4](=[C:5]=[N:6][H:10])[H:9])[H:8])\[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7],67.6194897833511
[C:1]1([H:8])([H:9])[C:2]([C:6](=[C:5]([H:14])[H:15])[H:16])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])=[C:7]1[H:17]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17],85.8415787558606
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7]>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:7])[H:11])([H:9])[H:10])[H:8],53.6454125579725
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([H:13])[H:14])([H:6])([H:7])[H:8].[O:5]([H:9])[H:15]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([O:5][H:15])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8],63.26566122739758
[C:1]([H:7])([H:8])([H:9])[H:10].[C:2]([O:3][H:11])[C:4]([C:5]#[C:6][H:14])([H:12])[H:13]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],26.849026800984504
[C:1]([C:2]([H:9])([H:10])[H:11])([N:6]=[C:5]=[C:3]([C:4]([H:13])([H:14])[H:15])[H:12])([H:7])[H:8]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],72.59573831728011
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:9])[H:10].[C:3](=[O:4])=[C:5]=[C:6]([C:7]([H:13])([H:14])[H:15])[H:8],58.3704856959524
